US07244851B2
To a suspension of 5-amino-2-mercapto-4-phenylthiazole (210 mg, 1.01 mmol) in water (1.0 ml) and tert-butanol (82 mg, 1.1 mmol) was added concentrated sulfuric acid (3.0 ml) with cooling to ca. 20° C. After 1.5 hr at ambient temperature a further portion of tert-butanol in water (300 μl, 1.0 M, 300 μmol) was added. After 1.5 hr the mixture was poured into excess aqueous sodium bicarbonate and extracted three times into dichloromethane (total 120 ml). The combined organic phases were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. Flash chromatography on silica gel (ethyl acetate/hexanes) yielded 5-amino-2-(tert-butylsulfanyl)-4-phenylthiazole (220 mg, 82%).

reactant | 5-amino-2-mercapto-4-phenylthiazole | 1.01 mmol, 210 mg | NC1=C(N=C(S1)S)C1=CC=CC=C1 | C9H8N2S2
reactant | tert-butanol | 1.1 mmol, 82 mg | C(C)(C)(C)O | C4H10O
reactant | sulfuric acid | 3.0 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 1.0 ml | O | H2O
solvent | water | 300 μmol, 1.0 M, 300 μl | O | H2O
product | 5-amino-2-(tert-butylsulfanyl)-4-phenylthiazole | 220 mg, 82% | NC1=C(N=C(S1)SC(C)(C)C)C1=CC=CC=C1 | C13H16N2S2
